US06048852
b) 2-Phenylethylmalonic Acid
A mixture of diethyl 2-phenylethylmalonate (3.61 g) and potassium hydroxide (1.69 g, 2.5 eq) in water (15 ml) was refluxed for 2 h and cooled to room temperature. The solution was washed with diethyl ether (2×10 ml) and then acidified to pH 2 (5M hydrochloric acid). The aqueous phase was extracted with diethyl ether (2×20 ml). The combined extracts were washed with water (2×20 ml), saturated brine (20 ml), dried (MgSO4) and evaporated to give the title compound as a white solid (1.85 g, 65%); νmax (KBr) 3080(br), 1705 cm-1 ; δH [(CD3)2CO], 2.18 (2H, m, CH2), 2.70 (2H, m, CH2), 3.40 (1H, t, J 7.4 Hz, CH), 7.25 (5H, m, Ph). DCIMS MNH4+ 226.

reactant | diethyl 2-phenylethylmalonate | 3.61 g | C1(=CC=CC=C1)CCC(C(=O)OCC)C(=O)OCC | C15H20O4
reactant | potassium hydroxide | 1.69 g, 2.5 eq | [OH-].[K+]
solvent | water | 15 ml | O | H2O
product | 2-Phenylethylmalonic Acid | 1.85 g, 65% | C1(=CC=CC=C1)CCC(C(=O)O)C(=O)O | C11H12O4
